US07262212B2
Trimethylsulfoxonium iodide (2.00 g, 9.02 mmol) was gradually added to a suspension of sodium hydride (361 mg, 9.02 mmol) in dimethylsulfoxide (30 ml), and the mixture was stirred at room temperature for 1 hour. To which a solution of 1-(4-trifluoromethylphenyl)piperidin-4-one (2.00 g, 8.2 mmol) in DMSO (10 ml) was added, and the mixture was stirred overnight. The reaction mixture was poured into ice water, and extracted with diethyl ether. The extract was washed with brine, dried over sodium sulfate, and then filtered. The residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=5/1) to afford 6-(4-trifluoromethylphenyl)-1-oxa-6-azaspiro[2,5]octane (1.51 g, yield 72%) as a pale yellow crystalline powder.

reactant | Trimethylsulfoxonium iodide | 9.02 mmol, 2.00 g | [I-].C[S+](=O)(C)C
reactant | sodium hydride | 9.02 mmol, 361 mg | [H-].[Na+]
reactant | 1-(4-trifluoromethylphenyl)piperidin-4-one | 8.2 mmol, 2.00 g | FC(C1=CC=C(C=C1)N1CCC(CC1)=O)(F)F | C12H12F3NO
solvent | dimethylsulfoxide | 30 ml | CS(=O)C | C2H6OS
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 6-(4-trifluoromethylphenyl)-1-oxa-6-azaspiro[2,5]octane | 1.51 g, yield 72% | FC(C1=CC=C(C=C1)N1CCC2(CO2)CC1)(F)F | C13H14F3NO
